US05866560
A solution of 300 mg of 11β-fluoro-7α-{5-[(2S)-2-(4,4,5,5,5-pentafluoropentyl-thiomethyl)-pyrrolidin-1-yl]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol in 4.3 ml of methanol and 2.1 ml of water is stirred with 131 mg of sodium periodate for 4 hours at room temperature. Then, it is added to water, extracted three times with ethyl acetate, washed with common salt solution, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with dichloromethane/ethyl acetate. 203 mg of 11β-fluoro-7α-(5-[(2S)-2-(4,4,5,5,5-pentafluoropentanesulfinylmethyl)-pyrrolidin-1-yl]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol is obtained. [α]D22 =+11.80 (c=0.53% in methanol).

reactant | 11β-fluoro-7α-{5-[(2S)-2-(4,4,5,5,5-pentafluoropentyl-thiomethyl)-pyrrolidin-1-yl]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol | 300 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN1[C@@H](CCC1)CSCCCC(C(F)(F)F)(F)F)O | C33H47F6NO2S
reactant | sodium periodate | 131 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 4.3 ml | CO | CH4O
solvent | water | 2.1 ml | O | H2O
product | 11β-fluoro-7α-(5-[(2S)-2-(4,4,5,5,5-pentafluoropentanesulfinylmethyl)-pyrrolidin-1-yl]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol | 203 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN1[C@@H](CCC1)CS(=O)CCCC(C(F)(F)F)(F)F)O | C33H47F6NO3S
